US05559111
g) 1-Bromo-2(R)-isopropyl-3-(p-tert-butyl-phenyl)-propane
To a solution of 2.3 g of 2(R)-isopropyl-3-(p-tert-butyl-phenyl)-propanol in 50 ml of dichloromethane there are added, with stirring at 0° C., 3.15 g of triphenylphosphine and then, in portions, 2.14 g of N-bromosuccinimide. The reaction mixture is subsequently stirred for 16 hours at room temperature and is then concentrated by evaporation. The residue is purified by FC (100 g of silica gel, eluant; dichloromethane/hexane=1:1). The title compound is obtained: Rf (hexane)=0.49.

reactant | 2(R)-isopropyl-3-(p-tert-butyl-phenyl)-propanol | 2.3 g | C(C)(C)[C@H](CO)CC1=CC=C(C=C1)C(C)(C)C | C16H26O
reactant | triphenylphosphine | 3.15 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 2.14 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-Bromo-2(R)-isopropyl-3-(p-tert-butyl-phenyl)-propane | BrC[C@H](CC1=CC=C(C=C1)C(C)(C)C)C(C)C | C16H25Br
